US04094978
In this preparation 1.81 g. of methyl α-amino-α-(4-hydroxyphenyl)acetate is dissolved in 10 ml. of dimethylformamide under nitrogen and 0.24 g. of sodium hydride is then added. The solution is stirred at room temperature under nitrogen until hydrogen evolution ceases and then 0.80 g. of chloromethyl methyl ether is added. The resulting mixture is warmed at 60° C for 1 hour and then cooled and diluted with water. The aqueous mixture is extracted with ether and the ether extract is dried and evaporated to afford methyl α-amino-α-(4-methoxymethoxyphenyl)acetate.

reactant | methyl α-amino-α-(4-hydroxyphenyl)acetate | NC(C(=O)OC)C1=CC=C(C=C1)O | C9H11NO3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl α-amino-α-(4-methoxymethoxyphenyl)acetate | NC(C(=O)OC)C1=CC=C(C=C1)OCOC | C11H15NO4
